US08937150B2
1-(4-chloro-2-fluoro-5-nitrophenyl)ethanone
To a solution of 4-chloro-2-fluoro-5-nitrobenzoic acid (16.0 g, 72.9 mmol) in anhydrous CH2Cl2 (400 mL) was added oxalyl chloride (9.57 mL, 109 mmol) and DMF (2 drops), and the resulting mixture was stirred at room temperature until gas evolution ceased. The mixture was concentrated and dried in vacuo. In a separate, heat-dried reaction flask a mixture of ZnBr2 (24.6 g, 109 mmol) in anhydrous THF (300 mL) at −78° C. was added a solution of CH3MgBr (29.1 mL, 3.0 M in Et2O, 87 mmol) dropwise. The resulting mixture was stirred at −78° C. for 15 minutes, and then the reaction mixture was allowed to warm to room temperature and stirred for 30 minutes. The mixture was cooled to −78° C. and a solution of the acid chloride in anhydrous THF (100 mL) was added dropwise, followed by Pd(PPh3)4 (1.68 g, 1.46 mmol). The resulting mixture was allowed to stir at −78° C. for 10 minutes, and was then allowed to warm to ambient temperature and stirred for an additional 16 hours. The mixture was quenched by adding aq. 1 M HCl, diluted with H2O (100 mL), and extracted with CH2Cl2 (3×300 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel, 5% EtOAc in hexanes) to afford the title compound (11.79 g, 74%).

reactant | 4-chloro-2-fluoro-5-nitrobenzoic acid | 72.9 mmol, 16.0 g | ClC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])F | C7H3ClFNO4
reactant | oxalyl chloride | 109 mmol, 9.57 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CH3MgBr | 87 mmol, 3.0 M, 29.1 mL | C[Mg+].[Br-]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 109 mmol, 24.6 g | [Zn+2].[Br-].[Br-]
catalyst | Pd(PPh3)4 | 1.46 mmol, 1.68 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-chloro-2-fluoro-5-nitrophenyl)ethanone | 11.79 g, 74% | ClC1=CC(=C(C=C1[N+](=O)[O-])C(C)=O)F | C8H5ClFNO3
